US04689321
3-(Thymidin-3'-yl) prop-2-enal
Thymidine (488 mg, 2 mmol) is dissolved in dimethylformamide (4 ml), triethylamine (280 μl; 2 mmole) is added and the mixture is stirred for 1 hr. then cooled to -78°. Propargyl aldehyde (200 μl; 4 mmole) is added and the mixture is stirred at this temperature for 2 hrs. and then allowed to come to room temperature over a period of 3 hrs. The solvent and triethylamine are removed under reduced pressure at room temperature. The residue is dissolved in methanol and applied to two preparative tic plates (20×20 cm; silica gel, 2 mm thick). The plates are developed with ethyl acetate containing 5% methanol. The desired product has Rf 0.65 and is detected by means of a thiobarbituric acid coloration test (pink). The starting material has an Rf of 0.4. Removal of the appropriate band from the plates, followed by extraction with methanol affords the title compound as an almost colorless glass (220 mg, 35%) which crystallized on standing m.p. 121°-2°. The infrared spectrum shows bands at 3425 (OH), 1733 (CHO), 1690, 1660, 1295, 1260, 1150, 1095, 1040 cm-1. The NMR spectrum has absorption bands at (DMSO) 1.85 (S, 3H, CH3) 6.19 (t, J=6.1 Hz, 1H, O--CH--N) 7.06 (q,J,=7.8 Hz J2 =14.8 Hz 1H, CH=CH--CHO) 7.95 (s, 1H, 4H) 8.16 (d, J=14.6 Hz, 1H, CH=CH--CHO) 9.60 (d, J=7.8 Hz, 1H, CHO) in addition to the peaks usually observed for thymidine the NH at 11.28 excepted. Mass spectrum m/z (intensity % of base peak), ion: 296 (0.4)M+, 242(2.0) (M-54)+, 180 (4.0) (M-117)+, 117 (100) (M-180)+ , 73 (71)C3H3O.

reactant | Thymidine | 2 mmol, 488 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | triethylamine | 2 mmole, 280 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(Thymidin-3'-yl) prop-2-enal | [C@@H]1(C[C@](O)([C@@H](CO)O1)C=CC=O)N1C(=O)NC(=O)C(C)=C1 | C13H16N2O6
